US04387059
A solution of 51.2 g of 8-amino-1,3,6-naphthalenetrisulfonic acid disodium salt in a mixture of 120 ml of water and 21.0 ml of 5 N sodium hydroxide was warmed and then filtered. The filtrate was slowly diluted with 400 ml of ethanol. The mixture was cooled to room temperature and the solid was collected by filtration, washed with ethanol, then ether and dried at 110° C. overnight giving 46.0 g of 8-amino-1,3,6-naphthalenetrisulfonic acid, trisodium salt.

reactant | 8-amino-1,3,6-naphthalenetrisulfonic acid disodium salt | 51.2 g | [Na+].[Na+].NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)O
solvent | water | 120 ml | O | H2O
solvent | sodium hydroxide | 5 N, 21.0 ml | [OH-].[Na+]
product | 8-amino-1,3,6-naphthalenetrisulfonic acid | 46.0 g | NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO9S3
